US06451810B1
A solution of N-hydroxysuccinimidoiminobiotin (0.74 g, 1.76 mmol) in pyridine (10 mL) was slowly added to a solution of 1-(2-aminoethyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (0.50 g, 1.76 mmol) in pyridine (30 mL). The reaction was maintained at ambient temperature overnight and then concentrated to dryness. The residue was partitioned between dichloromethane and aqueous saturated potassium carbonate. The organic layer was dried over magnesium sulfate and then concentrated to dryness. The residue was recrystallized from ethanol to provide 0.5 g of N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-5-(2-iminoperhydrothieno[3,4-d]imidazol-4-yl)pentanamide as a solid, m.p. 95-96° C. High resolution mass spec: Theoretical mass=508.2733, Measured mass=508.2723.

reactant | N-hydroxysuccinimidoiminobiotin | 1.76 mmol, 0.74 g | ON1[C@H]2CS[C@@H](CCCC(C(O)=O)=NN3C(CCC3=O)=O)[C@H]2NC1=O | C14H18N4O6S
reactant | 1-(2-aminoethyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.76 mmol, 0.50 g | NCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C16H21N5
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-5-(2-iminoperhydrothieno[3,4-d]imidazol-4-yl)pentanamide | 0.5 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCNC(CCCCC2SCC1NC(NC12)=N)=O)CCCC | C26H36N8OS
